US05145893
Methyl N-(1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin4-yl)oxamate
A mixture of 10.0 grams (39.3 mmol) of 4-amino-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine, 27.8 grams (236 mmol) of dimethyl oxalate and 100 ml of toluene is heated at reflux. Methanol and toluene are removed from the reaction mixture by fractional distillation. The reaction is then filtered and the filtrate is concentrated to obtain a solid. Fractional crystallization of the solid from 9:1 isopropanol:methylene chloride followed by recrystallization from heptane affords 6.5 grams (48% yield) of the title compound as a white solid melting at 124°-126° C.

reactant | 4-amino-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine | 39.3 mmol, 10.0 grams | NC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C15H30N2O
reactant | dimethyl oxalate | 236 mmol, 27.8 grams | C(C(=O)OC)(=O)OC | C4H6O4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl N-(1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin4-yl)oxamate | 6.5 grams, 48% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)NC(C(=O)OC)=O)(C)C | C18H32N2O4
